US09107415B2
To (1RS,2SR,6RS,7SR)-4-(4-bromo-2,6-dimethylphenyl)-5-methoxy-10-oxa-tricyclo[5.2.1.02,6]dec-4-en-3-one (0.40 g, 1.10 mmol), cesium fluoride (0.34 g, 2.20 mmol), cuprous iodide (0.04 g, 0.22 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.12 g, 0.17 mmol) under nitrogen atmosphere is added anhydrous dimethylformamide (3.8 g, 4 ml, 51 mmol) followed by tributyl(prop-1-ynyl)stannane (1.10 g, 1.0 ml, 3.3 mmol). The mixture is heated at 120°C. under microwave irradiation for 60 minutes then diluted with water (50 ml) and ethyl acetate (50 ml) and filtered through a bed of diatomaceous earth. The residue is washed with ethyl acetate and the crude product is extracted with ethyl acetate (50 ml×2). The combined organic fractions are washed with distilled water then brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product is purified by flash column chromatography to afford (1RS,2SR,6RS,7SR)-4-(2,6-dimethyl-4-prop-1-ynylphenyl)-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione.

reactant | (1RS,2SR,6RS,7SR)-4-(4-bromo-2,6-dimethylphenyl)-5-methoxy-10-oxa-tricyclo[5.2.1.02,6]dec-4-en-3-one | 1.10 mmol, 0.40 g | BrC1=CC(=C(C(=C1)C)C=1C(C2C3CCC(C2C1OC)O3)=O)C | C18H19BrO3
reactant | cesium fluoride | 2.20 mmol, 0.34 g | [F-].[Cs+]
reactant | dimethylformamide | 51 mmol, 4 ml, 3.8 g | CN(C=O)C | C3H7NO
reactant | tributyl(prop-1-ynyl)stannane | 3.3 mmol, 1.0 ml, 1.10 g | C(CCC)[Sn](C#CC)(CCCC)CCCC
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.17 mmol, 0.12 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (1RS,2SR,6RS,7SR)-4-(2,6-dimethyl-4-prop-1-ynylphenyl)-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione | CC1=C(C(=CC(=C1)C#CC)C)C1C(C2C3CCC(C2C1=O)O3)=O | C20H20O3
